* =============================================================================
* TSMC N5 (CLN5FF) 5nm FinFET — ngspice-Native Level-1 Model Library
* =============================================================================
*
* Parallel to tsmc_n5_bsimcmg.lib — uses Shichman-Hodges (level=1) models
* wrapped in subcircuits for per-fin encapsulation. No OSDI or BSIM-CMG
* dependency — runs on any ngspice version.
*
* Calibrated targets (per fin, LVT, TT, 25C):
*   Cg  = ~0.05 fF/fin     Cd = ~0.02 fF/fin     Cs = ~0.02 fF/fin
*   NMOS Id_on  @0.75V = ~65 uA/fin    @0.40V = ~8 uA/fin (level=1: no subVt)
*   PMOS Id_on  @0.75V = ~47 uA/fin    @0.40V = ~5 uA/fin (level=1: no subVt)
*
* Process geometry:
*   Fin pitch  = 25-27 nm      Fin height (hfin) = 46 nm
*   CPP        = 48 nm         Fin width  = ~6.5 nm
*   Weff/fin   = 2*hfin = 92 nm
*   Lg         = 16 nm
*
* Usage:
*   .lib 'tsmc_n5_ngspice.lib' tt
*   xn1 d g s b nfet_5nm          $ single-fin NMOS
*   xp1 d g s b pfet_5nm m=2      $ 2-fin PMOS
*
* NOTE: x-prefix required (subcircuit instances). Use m=N for multi-fin.
*
* Limitations vs BSIM-CMG:
*   - No subthreshold current (Id=0 for Vgs<Vt) — use BSIM-CMG for 0.40V sims
*   - No velocity saturation, DIBL, or short-channel effects
*   - No self-heating, no gate tunneling
*   - Adequate for: gate capacitance extraction, buffer chain delay estimation,
*     quick FO4 characterization, power estimation, Liberty table generation
*
* Corners: tt, ff, ss, sf, fs
* =============================================================================


* =============================================================================
* TYPICAL-TYPICAL CORNER
* =============================================================================
.lib tt

* ── Internal NMOS model ────────────────────────────────────────────────────
* kp calibrated: Id = kp*W/(2L)*(Vgs-Vt)^2*(1+lambda*Vds)
*   65uA = 92.6u * 92n/(2*16n) * (0.48)^2 * (1.06) = 92.6u * 0.7024
.model _nfet_n5_tt nmos level=1
+ vto    = 0.27
+ kp     = 92.6u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

* ── Internal PMOS model ────────────────────────────────────────────────────
* 47uA = 70u * 92n/(2*16n) * (0.47)^2 * (1.06) = 70u * 0.6731
.model _pfet_n5_tt pmos level=1
+ vto    = -0.28
+ kp     = 70.0u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

* ── NMOS subcircuit (per-fin) ──────────────────────────────────────────────
.subckt nfet_5nm d g s b
mn1 d g s b _nfet_n5_tt w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends nfet_5nm

* ── PMOS subcircuit (per-fin) ──────────────────────────────────────────────
.subckt pfet_5nm d g s b
mp1 d g s b _pfet_n5_tt w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends pfet_5nm

.endl tt


* =============================================================================
* FAST-FAST CORNER (Vt low, mobility high)
* =============================================================================
.lib ff

.model _nfet_n5_ff nmos level=1
+ vto    = 0.245
+ kp     = 101.9u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.model _pfet_n5_ff pmos level=1
+ vto    = -0.255
+ kp     = 77.0u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.subckt nfet_5nm d g s b
mn1 d g s b _nfet_n5_ff w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends nfet_5nm

.subckt pfet_5nm d g s b
mp1 d g s b _pfet_n5_ff w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends pfet_5nm

.endl ff


* =============================================================================
* SLOW-SLOW CORNER (Vt high, mobility low)
* =============================================================================
.lib ss

.model _nfet_n5_ss nmos level=1
+ vto    = 0.295
+ kp     = 83.3u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.model _pfet_n5_ss pmos level=1
+ vto    = -0.305
+ kp     = 63.0u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.subckt nfet_5nm d g s b
mn1 d g s b _nfet_n5_ss w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends nfet_5nm

.subckt pfet_5nm d g s b
mp1 d g s b _pfet_n5_ss w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends pfet_5nm

.endl ss


* =============================================================================
* SLOW-N FAST-P CORNER
* =============================================================================
.lib sf

.model _nfet_n5_sf nmos level=1
+ vto    = 0.295
+ kp     = 83.3u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.model _pfet_n5_sf pmos level=1
+ vto    = -0.255
+ kp     = 77.0u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.subckt nfet_5nm d g s b
mn1 d g s b _nfet_n5_sf w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends nfet_5nm

.subckt pfet_5nm d g s b
mp1 d g s b _pfet_n5_sf w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends pfet_5nm

.endl sf


* =============================================================================
* FAST-N SLOW-P CORNER
* =============================================================================
.lib fs

.model _nfet_n5_fs nmos level=1
+ vto    = 0.245
+ kp     = 101.9u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.model _pfet_n5_fs pmos level=1
+ vto    = -0.305
+ kp     = 63.0u
+ lambda = 0.08
+ tox    = 1.0n
+ cgso   = 8.7e-11
+ cgdo   = 8.7e-11
+ tnom   = 25

.subckt nfet_5nm d g s b
mn1 d g s b _nfet_n5_fs w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends nfet_5nm

.subckt pfet_5nm d g s b
mp1 d g s b _pfet_n5_fs w=92n l=16n ad=0 as=0 pd=0 ps=0
Cd_jn d b 0.02f
Cs_jn s b 0.02f
.ends pfet_5nm

.endl fs

* =============================================================================
* END OF LIBRARY
* =============================================================================
